US06344476B1
3-Chloro-4,4dimethyl-2-pentenenitrile was prepared following a literature procedure (Hatcher et al. J. Heterocycl. Chem. 1989, 26, 1575). POCl3 (22.4 mL), 0.24 mol, 2.4 equiv) was slowly added to a 0° C. solution of DMF (20.2 mL, 0.26 mol, 2.6 equiv) keeping the temp. under 20° C. The resulting pink solid was heated to 40° C., pinacolone (12.5 mL, 0.10 mol) was added to the resulting red solution, and this mixture was heated to 55° C. for 2 h and 75° C. for 2 h. NH2OH.HCl (16.7 g, 0.24 mol, 2.4 equiv) was added to the 75° C. mixture slowly (<100 mg portions; CAUTION gas evolution and foaming). The resulting solution was heated to 85° C. for 2 h, then allowed to cool to room temp. overnight. The resulting yellow gel was separated between H2O (500 mL) and EtOAc (300 mL). The aqueous layer was extracted with EtOAc (2×200 mL). The combined organic layers were washed with a saturated NaCl solution, dried (Na2SO4) and concentrated under reduced pressure to give 3-chloro-4,4-dimethyl-2-pentenenitrile as a brown oil (13.2 g, 93%): 1H NMR (CDCl3) δ1.23 (s, 9H), 5.56 (s, 1H); GC-LRMS m/z (rel abundance) 143 (28%), 145 (11%). This material was used in the next step without further purification.

reactant | POCl3 | 22.4 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | DMF | 0.26 mol, 20.2 mL, 2.6 equiv | CN(C)C=O | C3H7NO
reactant | pinacolone | 0.10 mol, 12.5 mL | CC(C(C)(C)C)=O | C6H12O
reactant | NH2OH.HCl | 0.24 mol, 16.7 g, 2.4 equiv | NO.Cl
product | 3-chloro-4,4-dimethyl-2-pentenenitrile | 13.2 g, 93% | ClC(=CC#N)C(C)(C)C | C7H10ClN
